### PR TITLE
[Merged by Bors] - feat: `Icc a b + Icc c d = Icc (a + c) (b + d)`

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups

Moves:
* `inv_Ioi` -> `inv_Ioi₀`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Pointwise/Interval.lean [hunk 1]
```diff
@@ -114,6 +114,41 @@ theorem Ici_mul_Ioi_subset' (a b : α) : Ici a * Ioi b ⊆ Ioi (a * b) := by
 
 end ContravariantLT
 
+section LinearOrderedCommMonoid
+variable [LinearOrderedCommMonoid α] [MulLeftReflectLE α] [ExistsMulOfLE α] {a b c d : α}
+
+@[to_additive (attr := simp)]
+lemma smul_Icc (a b c : α) : a • Icc b c = Icc (a * b) (a * c) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Pointwise/Interval.lean:121]: Does this generalize to some arbitrary action type?

File: Mathlib/Data/Set/Pointwise/Interval.lean [hunk 2]
```diff
@@ -794,3 +829,15 @@ theorem image_affine_Ioo {a : α} (h : 0 < a) (b c d : α) :
...
 
 end Set
+
+
+open scoped Pointwise
+
+namespace Set
+variable {α : Type*} [OrderedCommGroup α]
+
+end Set
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Pointwise/Interval.lean:839]: Not sure this is useful

**Review by eric-wieser — COMMENTED** [review]
I guess `preimage_neg_Icc` etc should be deprecated?

File: Mathlib/Data/Set/Pointwise/Interval.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Set/Pointwise/Interval.lean:839]: Oops

File: Mathlib/Data/Set/Pointwise/Interval.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Data/Set/Pointwise/Interval.lean:121]: It does, but I was hoping to not open this can of worms: we have `MulLeftMono` etc, but not corresponding `SMul` versions

Comment (eric-wieser) [reply Mathlib/Data/Set/Pointwise/Interval.lean:121]: Let's go with a todo then?

File: Mathlib/Data/Set/Pointwise/Interval.lean [hunk 3]
```diff
@@ -196,35 +248,34 @@ theorem preimage_add_const_Ioo : (fun x => x + a) ⁻¹' Ioo b c = Ioo (b - a) (
 ### Preimages under `x ↦ -x`
 -/
 
-
-@[simp]
+@[deprecated neg_Ici (since := "2024-11-23")]
 theorem preimage_neg_Ici : -Ici a = Iic (-a) :=
   ext fun _x => le_neg
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Pointwise/Interval.lean:253]: Can you prove these using their replacements?

File: Mathlib/Data/Set/Pointwise/Interval.lean [hunk 4]
```diff
@@ -750,7 +809,7 @@ theorem inv_Ioo_0_left {a : α} (ha : 0 < a) : (Ioo 0 a)⁻¹ = Ioi a⁻¹ := by
         inv_inv a ▸ (inv_lt_inv₀ ((inv_pos.2 ha).trans h)
           (inv_pos.2 ha)).2 h⟩⟩
 
-theorem inv_Ioi {a : α} (ha : 0 < a) : (Ioi a)⁻¹ = Ioo 0 a⁻¹ := by
+theorem inv_Ioi₀ {a : α} (ha : 0 < a) : (Ioi a)⁻¹ = Ioo 0 a⁻¹ := by
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Pointwise/Interval.lean:812]: This should be mentioned in the "Moves" section of the PR template.

**Comment by b-mehta** [comment]
Thanks!

bors merge
